US05571816
2.5 ml of a 6.6 molar solution of HCl in ether were added dropwise to a solution of 6.55 g (15 mmol) of 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-isopropyl-N-(3-trifluoromethylphenyl)amide prepared as in Example 3 in 35 ml of acetone at room temperature, and the resulting suspension was stirred at room temperature for 2 hours. The crystals were then filtered off with suction, washed with acetone and dried in vacuo at 100° for 10 hours. 6.84 g (=96.5% yield) of 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-isopropyl-N-(3-trifluoromethylphenyl)amide hydrochloride were obtained, melting point 279°-280° (decomposition).

reactant | HCl | Cl | ClH
reactant | 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-isopropyl-N-(3-trifluoromethylphenyl)amide | 15 mmol, 6.55 g | C(C)(C)N(C(=O)C=1C(=NC(=NC1)N1C(NC(C1)(C)C)=O)N)C1=CC(=CC=C1)C(F)(F)F | C20H23F3N6O2
solvent | ether | CCOCC | C4H10O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | 4-amino-2-(4,4-dimethyl-2-oxo-1-imidazolidinyl)pyrimidine-5-carboxylic acid N-isopropyl-N-(3-trifluoromethylphenyl)amide hydrochloride | 6.84 g, 96.5% yield | Cl.C(C)(C)N(C(=O)C=1C(=NC(=NC1)N1C(NC(C1)(C)C)=O)N)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C20H23F3N6O2.ClH/c1-11(2)29(13-7-5-6-12(8-13)20(21,22)23)16(30)14-9-25-17(26-15(14)24)28-10-19(3,4)27-18(28)31;/h5-9,11H,10H2,1-4H3,(H,27,31)(H2,24,25,26);1H
